US06030747
8-methoxycarboniltetracyclo[4.4.0.12,5.117,10 ]-3-dodecen of 65 grams, dicyclopentadien of 87 grams and methylhydroquinon of 0.14 gram were mixed in a 300 milli-litter eggplant type flask, and the reaction was continued at 170 degrees to 180 degrees in centigrade for 17 hours. The reaction product remained cooled, and residual 8-methoxycarboniltetracyclo[4.4.0.12,5.117,10 ]-3-dodecen and residual dicyclopentadien were distillated in vacuum. Hot methanol was added to the residue, and insoluble content was filtrated. The filtrate was concentrated in vacuum, and residue was recrystallized from methanol. Then, we obtained white crystal of 12-methoxycarbonilhexacyclo[6.6.1.13,6.110,13.02,7.09,14 ]heptadecen of 10 grams.

reactant | 3-dodecen | CCC=CCCCCCCCC | C12H24
reactant | methylhydroquinon | CC1=C(O)C=CC(=C1)O | C7H8O2
solvent | methanol | CO | CH4O
product | heptadecen | C=CCCCCCCCCCCCCCCC | C17H34
